US07317037B2
7-Fluorooxindole (1.28 g, 8.50 mmol) and lithium chloride (0.899 g, 21.3 mmol) were suspended in 80 mL of THF and cooled to 0° C. n-Butyllithium (8.5 mL, 16.9 mmol) was added slowly, and the mixture was stirred for 20 min, and then dibromoethane (0.73 mL, 8.5 mmol) was added. The mixture was warmed to 25° C. and stirred for 16 h. The reaction was quenched with saturated aqueous NH4Cl and diluted with ether. The organics were washed with water, brine, dried over MgSO4, and concentrated. Flash chromatography (10% acetone/hexane) afforded 0.54 g (36%) of 7′-fluorospiro[cyclopropane-1,3′-indol]-2′(1′H)-one as a white solid: HRMS: calcd for C10H8FNO, 177.0590; found (ESI, [M+H]+), 178.0659

reactant | 7-Fluorooxindole | 8.50 mmol, 1.28 g | FC=1C=CC=C2CC(NC12)=O | C8H6FNO
reactant | lithium chloride | 21.3 mmol, 0.899 g | [Cl-].[Li+]
reactant | n-Butyllithium | 16.9 mmol, 8.5 mL | C(CCC)[Li]
reactant | dibromoethane | 8.5 mmol, 0.73 mL | BrC(C)Br | C2H4Br2
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 7′-fluorospiro[cyclopropane-1,3′-indol]-2′(1′H)-one | 0.54 g, 36% | FC=1C=CC=C2C3(C(NC12)=O)CC3 | C10H8FNO
